US09328099B2
Step A: 1-[1-(Cyanomethyl)-4-hydroxycyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide
To a solution of 1-[1-(cyanomethyl)-4-oxocyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide (90 mg, 0.25 mmol) in a mixture of THF (1.9 mL)/MeOH (0.6 mL) at 0° C. was added NaBH4 (10 mg, 0.25 mmol), and the mixture was stirred at 0° C. for 10 minutes, then warmed to ambient temperature and stirred for another 10 minutes. The mixture was diluted with EtOAc and H2O. The organic layer was separated, washed with saturated aqueous NH4Cl, brine, dried over anhydrous MgSO4, and concentrated in vacuo. The crude residue containing a mixture of the two diasteromeric alcohols was used for next step without purification. LRMS (ESI) calc'd for C18H20FN5O2 [M+H]+: 358. Found: 358.

reactant | 1-[1-(cyanomethyl)-4-oxocyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide | 0.25 mmol, 90 mg | C(#N)CC1(CCC(CC1)=O)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)F | C18H18FN5O2
reactant | MeOH | 0.6 mL | CO | CH4O
reactant | NaBH4 | 0.25 mmol, 10 mg | [BH4-].[Na+]
solvent | THF | 1.9 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 1-[1-(Cyanomethyl)-4-hydroxycyclohexyl]-3-[(4-fluorophenyl)amino]-1H-pyrazole-4-carboxamide | C(#N)CC1(CCC(CC1)O)N1N=C(C(=C1)C(=O)N)NC1=CC=C(C=C1)F | C18H20FN5O2
